US08071588B2
N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide
N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (37.0 mg, 0.06 mmol) was diluted in DMSO (1.5 mL) and dispensed into a 1 dram vial containing piperazine (0.18 mmol) and acetic acid (3.6 mg, 0.6 mmol) and fitted with a magnetic stir bar. The resulting solution was stirring at room temperature for 4 h. MP-B(OAc)3H (0.6 mmol, 140 mg) was added and the solution was stirred for another 12 h. The polymer reagent was filtered off and purification was completed using reversed phase HPLC (acidic conditions) via a Gilson. The product after HPLC purification was dissolved in 3 mL of MeOH and was passed through a 0.5 g amine column (washed with 8 mL of MeOH) to afford 12.1 mg of the title compound (29.3%). LC-MS m/z 687 (M+H)+, 1.88 min (ret time).

reactant | N-[(6-chloro-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 0.06 mmol, 37.0 mg | ClC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C33H37ClN6O4
reactant | piperazine | 0.18 mmol | N1CCNCC1 | C4H10N2
reactant | acetic acid | 0.6 mmol, 3.6 mg | C(C)(=O)O | C2H4O2
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | N-{[6-Chloro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 12.1 mg, 29.3% | ClC1=CC=C(C=C1C1=CC(=CC=C1)CN1CCNCC1)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C37H47ClN8O3
